US08304557B2
N-(3-hydroxy-5-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of 3-amino-5-methylphenol (4.32 g, 35.1 mmol) and triethylamine (5.20 mL, 37.4 mmol) in tetrahydrofuran (40 mL) was added dropwise with stirring under ice-cooling a solution of 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (5.85 g, 36.9 mmol) in tetrahydrofuran (10 mL), and the mixture was stirred at room temperature for 10 hr. Methanol (40 mL), water (40 mL) and saturated aqueous sodium carbonate solution (20 mL) were added to the reaction mixture, and the mixture was stirred at room temperature for 7 hr. The reaction solution was concentrated under reduced pressure. Ethyl acetate was added to the residue, and the mixture was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=100/0→50/50) to give the title compound (8.30 g, 96%) as a pale-yellow oil.

reactant | 3-amino-5-methylphenol | 35.1 mmol, 4.32 g | NC=1C=C(C=C(C1)C)O | C7H9NO
reactant | triethylamine | 37.4 mmol, 5.20 mL | C(C)N(CC)CC | C6H15N
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 36.9 mmol, 5.85 g | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | sodium carbonate | 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 40 mL | O | H2O
solvent | Methanol | 40 mL | CO | CH4O
product | N-(3-hydroxy-5-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 8.30 g, 96% | OC=1C=C(C=C(C1)C)NC(=O)C1=CC(=NN1C)C | C13H15N3O2
